US07132442B2
To a solution of the 1-[2-(5-bromo-4-methyl-2-thienyl)-2-methylpropanoyl]pyrrolidine in acetic acid (8 ml) and water (5 ml) was added zinc dust (1.1 g, 15 mmol). The mixture was heated under reflux for 24 hours. The solvent was evaporated and the residue was dissolved in ethyl acetate and then washed sequentially with 1N hydrochloric acid, 1N sodium hydroxide and a saturated brine solution. The ethyl acetate solution was dried over magnesium sulfate and then evaporated. The residue was purified by flash chromatography on silica eluting with a 20–75% mixture of ethyl acetate in iso-hexane to afford 1-[2-methyl-2-(4-methyl-2-thienyl)propanoyl]pyrrolidine (0.151 g) as a colourless solid.

reactant | 1-[2-(5-bromo-4-methyl-2-thienyl)-2-methylpropanoyl]pyrrolidine | BrC1=C(C=C(S1)C(C(=O)N1CCCC1)(C)C)C | C13H18BrNOS
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
catalyst | zinc | 15 mmol, 1.1 g | [Zn] | Zn
product | 1-[2-methyl-2-(4-methyl-2-thienyl)propanoyl]pyrrolidine | 0.151 g | CC(C(=O)N1CCCC1)(C)C=1SC=C(C1)C | C13H19NOS
